US06593355B2
f. (R)-2-[4-(5-methyl-1,2,4-oxadiazol-3-yl)-phenylaminomethyl]-1-methyl-5-[1-cyanomethylamino-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole
Prepared analogously to Example 1k from (R)-2-[4-(5-methyl-1,2,4-oxadiazol-3-yl)-phenylaminomethyl]-1-methyl-5-[1-amino-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole and bromoacetonitrile/potassium carbonate in acetone.

reactant | (R)-2-[4-(5-methyl-1,2,4-oxadiazol-3-yl)-phenylaminomethyl]-1-methyl-5-[1-amino-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole | CC1=NC(=NO1)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)N | C25H29N7O2
reactant | bromoacetonitrile potassium carbonate | BrCC#N.C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | (R)-2-[4-(5-methyl-1,2,4-oxadiazol-3-yl)-phenylaminomethyl]-1-methyl-5-[1-cyanomethylamino-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole | CC1=NC(=NO1)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)NCC#N | C27H30N8O2
